US04692448
A mixture of 3-[4-(4-chlorobenzyl)piperazine-1-yl]propanethiol dihydrochloride (2 g), sodium hydroxide (0.3 g), water (10 ml), and ethanol (100 ml) is refluxed for 15 minutes, and then a solution of 1-(2-chloroethyl)-4-(4-chlorobenzyl)piperazine (1.9 g) in ethanol (20 ml) is added. The resulting mixture is refluxed for 2 hours and the ethanol is removed in vacuo. Water is added to the residue and the product is extracted with methylene chloride, dried (magnesium sulfate), and concentrated. The resulting oil is purified on a silica gel column (methylene chloride: methanol, 9:1), and then dissolved in ether. The product is precipitated with ethereal hydrochloric acid and recrystallized from aqueous ethanol to provide 1.2 g of {2-[4-(4-chlorobenzyl)piperazin-1-yl)ethyl}{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}sulfide tetrahydrochloride as colorless crystals, m.p. 292°-295° C.

reactant | 3-[4-(4-chlorobenzyl)piperazine-1-yl]propanethiol dihydrochloride | 2 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | sodium hydroxide | 0.3 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 1-(2-chloroethyl)-4-(4-chlorobenzyl)piperazine | 1.9 g | ClCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C13H18Cl2N2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | {2-[4-(4-chlorobenzyl)piperazin-1-yl)ethyl}{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}sulfide tetrahydrochloride | 1.2 g | Cl.Cl.Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCSCCCN2CCN(CC2)CC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C27H38Cl2N4S.4ClH/c28-26-6-2-24(3-7-26)22-32-15-11-30(12-16-32)10-1-20-34-21-19-31-13-17-33(18-14-31)23-25-4-8-27(29)9-5-25;;;;/h2-9H,1,10-23H2;4*1H
